Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[O:1]>>[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-7.4650554115
[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7].[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.47801115422
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:2]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:7]([H:3])=[C:4]([H:5])[H:6],2.86227140703
[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.2110730513
[C:1]#[C:2][C@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C@:3]([H:4])([O:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6],4.7256851852800015
[H:9].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][H:11]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-1.78488641653
[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])=[C:10]([H:11])[O:12][H:13]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-0.749282449119
[H:1][C:2].[O:3]=[C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])[H:6],-3.03636039
[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.22858294416
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],5.8393722946
[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.5513280297600005
[C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-0.783567275342
[H:10].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-5.00669298531
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][C:6]([H:7])[O:8][C:9]([H:10])[H:11].[H:5],2.9123439444800003
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[O:9][C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.71125015421
[C:9]([H:10])([H:11])([C:12])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-3.70790710871
[C:10]([H:11])[H:12].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.25722278855
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-3.5622387000000004
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][O:8][H:9]>>[C:5]([H:6])[O:7][O:8][H:9].[H:1][C:2]#[C:3][H:4],1.1004324405
[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:4],2.67715232659
[C:5]([H:6])#[C:7][H:8].[H:1][C:2](=[C:3]([H:4])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16])[H:9]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],1.25024785925
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],4.62749319667
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],4.98247747239
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:7]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.66686888823
[O:1]=[C:2]([C:3][H:4])[O:5][C:6]#[C:7][H:8]>>[O:1][C:2]#[C:3][H:4].[O:5][C:6]#[C:7][H:8],0.00777999471029
[C:1]#[C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4][O:5][C:6]([H:7])[H:8].[H:9],4.90943659624
[C:2]([H:3])([H:4])=[O:6].[O:1]=[C:5]=[C:7]([H:8])[C:9]([H:10])[H:11]>>[O:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-0.3644041664999999
[H:1][C:2]=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:3][C:7](=[C:4]([H:5])[H:6])[H:8]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-1.84786544873
